US07538123B2
445 mg of 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxyquinoline was dissolved in 10 ml of methanol. Thereafter, 100 mg of 10% palladium carbon was added to the reaction solution. The obtained mixture was stirred for 6 hours under a 4 kg/cm2 of hydrogen atmosphere. Thereafter, palladium carbon was removed by filtration, and the filtrate was concentrated under a reduced pressure. The reaction solution was stirred under the same above conditions for 10 hours 3 times, and then, it was concentrated under a reduced pressure. A saturated sodium bicarbonate aqueous solution was added to the residue, followed by extraction with chloroform. The extract was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 459 mg of 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxy-1,2,3,4-tetrahydroquinoline. This compound was used in the next reaction without further purification.

reactant | 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxyquinoline | 445 mg | O1CCOC12CCN(CC2)CCC2=C(C=C1C=CC=NC1=C2)OC | C19H24N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium carbon | 100 mg | [C].[Pd]
product | 7-(2-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)ethyl)-6-methoxy-1,2,3,4-tetrahydroquinoline | 459 mg | O1CCOC12CCN(CC2)CCC2=C(C=C1CCCNC1=C2)OC | C19H28N2O3
